US08865682B2
To a stirred solution of methyl (3E)-3-{5,5-dimethyl-4-[4-(morpholin-4-ylmethyl)phenyl]furan-2(5H)-ylidene}-2-oxoindoline-5-carboxylate (18 mg, 0.039 mmol) in MeOH (1 mL) was added 1M NaOH solution (1 mL, 1 mmol). The mixture was heated in 50° C. bath under nitrogen for 4 hours, cooled to room temp, and neutralized with 1M HCl to about pH 7. The mixture was extracted with 10% MeOH/CHCl3 solution (3×30 mL). The organic layers were combined, dried over Na2SO4, and evaporated to dryness to give (3E)-3-{5,5-dimethyl-4[4-(morpholin-4-ylmethyl)phenyl]furan-2(5H)-ylidene}-2-oxoindoline-5-carboxylic acid as yellow solid. Yield: 15 mg, 88%.

reactant | methyl (3E)-3-{5,5-dimethyl-4-[4-(morpholin-4-ylmethyl)phenyl]furan-2(5H)-ylidene}-2-oxoindoline-5-carboxylate | 0.039 mmol, 18 mg | CC1(C(=C/C(/O1)=C/1\C(NC2=CC=C(C=C12)C(=O)OC)=O)C1=CC=C(C=C1)CN1CCOCC1)C | C27H28N2O5
reactant | NaOH | 1 mmol, 1M, 1 mL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
product | (3E)-3-{5,5-dimethyl-4[4-(morpholin-4-ylmethyl)phenyl]furan-2(5H)-ylidene}-2-oxoindoline-5-carboxylic acid | CC1(C(=C/C(/O1)=C/1\C(NC2=CC=C(C=C12)C(=O)O)=O)C1=CC=C(C=C1)CN1CCOCC1)C | C26H26N2O5
